US04053505
1,3,5-Tricarbethoxymethylhexahydro-1,3,5-triazine (1.38 parts) and diphenyl phosphite (2.81 parts) are dissolved in benzene and heated to reflux for 2 hours, and then allowed to stand for 16 hours at ambient temperatures. The reaction mixture is concentrated under vacuum and an excess of dilute sodium hydroxide added and then heated to from 70° C. to 100° C for 6 hours. The resultant solution was then neutralized with hydrochloric acid, then allowed to stand at ambient temperature to precipitate the N-phosphonomethyl glycine. By this procedure one obtains substantially theoretical yields of the N-phosphonomethyl glycine.

reactant | 1,3,5-Tricarbethoxymethylhexahydro-1,3,5-triazine | C(=O)(OCC)CN1CN(CN(C1)CC(=O)OCC)CC(=O)OCC | C15H27N3O6
reactant | diphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-phosphonomethyl glycine | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
